US08119661B2
But-2-ynyl 4-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzimidazol-1-yl]-1-piperidyl]-4-methyl-piperidine-1-carboxylate
To a solution of (3aS,7aS)-3-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one (HCl salt, 0.4105 g, 1.15 mmol) and potassium carbonate (0.170 g, 1.23 mmol) in water (3.00 mL) was added a solution of but-2-ynyl chloroformate (0.156 mL, 1.38 mmol) in dichloromethane (3 mL). The reaction mixture was stirred at room temperature overnight. The mixture was poured into hydrometrix varian column chem elut catridge column and rinsed with dichloromethane (3 Column volumes). Concentrated in vacuo and the residue was purified by flash chromatography (0 to 50% MeOH/Ethyl acetate) and followed by preparative LC/MS (high pH) to give the title compound (0.036 g, 7.59%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1H NMR (400 MHz, CDCl3) δ ppm 1.30-1.47 (m, 6H), 1.49 (s, 2H), 1.62-1.76 (m, 1H), 1.76-2.00 (m, 9H), 2.34 (s, 2H), 2.72-2.98 (m, 6H), 2.99-3.09 (m, 2H), 3.49-3.85 (m, 2H), 4.11 (s, 1H), 4.27 (s, 2H), 4.49 (s, 1H), 4.61-4.72 (m, 2H) MS (M+1): 417.3.

reactant | (3aS,7aS)-3-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one | 1.15 mmol, 0.4105 g | CC1(CCNCC1)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C18H32N4O
reactant | potassium carbonate | 1.23 mmol, 0.170 g | C([O-])([O-])=O.[K+].[K+]
reactant | but-2-ynyl chloroformate | 1.38 mmol, 0.156 mL | ClC(=O)OCC#CC | C5H5ClO2
solvent | water | 3.00 mL | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | But-2-ynyl 4-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzimidazol-1-yl]-1-piperidyl]-4-methyl-piperidine-1-carboxylate | 0.036 g, 7.59% | O=C1N[C@@H]2[C@@H](N1C1CCN(CC1)C1(CCN(CC1)C(=O)OCC#CC)C)CCCC2 | C23H36N4O3
